US07482367B2
4-(4-Methylamino-3-amino-phenoxy)-pyridine-2-carbonitrile
4-(4-Methylamino-3-nitro-phenoxy)-pyridine-2-carbonitrile (5.0 g, 0.019 moles) in EtOH (15 mL) was heated to 40° C. Na2CO3 (4.7 g, 0.044 moles) was added followed by H2O (8.4 mL). Na2S2O4 (3.3 g, 0.019 moles) was added followed by H2O (10 mL). The temperature rose from 41.7 to 49.5° C. After cooling down to 41.7° C., Na2S2O4 (3.3 g, 0.019 moles) was added followed by H2O (10 mL). The temperature rose to 44.5° C. After cooling down to 36.7° C., Na2S2O4 (6.6 g, 0.038 moles) was added followed by H2O (20 mL). The temperature rose to 44.0° C. HPLC analysis showed 4.1% (LCAP) of the starting material. Additional Na2S2O4 (3.3 g, 0.019 moles) was added. After stirring an additional 15 min, heat was removed and H2O (12.5 mL) was added. At 25° C., additional Na2CO3 (1.3 g, 0.012 moles) was added and the mixture cooled in an ice/water bath. At less than 5° C., the mixture was allowed to age for 30 min (final temperature of 1.5° C.). The solid was collected by filtration and washed with H2O (10 mL followed by 5 mL). The solid was dried on the filter for 30 min and then transferred to the reaction flask and H2O (50 mL) added. The mixture was stirred for 45 min. The solid was then collected by filtration and washed with H2O (2×10 mL). The crude product was dried in a vacuum oven at 50° C. for 16 h to afford 3.50 g (76%) of the title compound: 1H NMR (400 MHz, DMSO-d6) δ 8.5 (m, 1H), 7.5 (m, 1H), 7.1 (m, 1H), 6.4 (m, 1H), 6.3 (m, 2H), 4.8 (s, 2H), 4.7 (s, 1H), 2.7 (s, 3H); APCI MS [M+H]+=241; HPLC >99% (LCAP).

reactant | 4-(4-Methylamino-3-nitro-phenoxy)-pyridine-2-carbonitrile | 0.019 moles, 5.0 g | CNC1=C(C=C(OC2=CC(=NC=C2)C#N)C=C1)[N+](=O)[O-] | C13H10N4O3
reactant | Na2CO3 | 0.044 moles, 4.7 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Na2S2O4 | 0.019 moles, 3.3 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | Na2S2O4 | 0.019 moles, 3.3 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | Na2S2O4 | 0.038 moles, 6.6 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | LCAP | CC(=O)OO | C2H4O3
reactant | Na2S2O4 | 0.019 moles, 3.3 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | Na2CO3 | 0.012 moles, 1.3 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 15 mL | CCO | C2H6O
solvent | H2O | 20 mL | O | H2O
solvent | H2O | 10 mL | O | H2O
solvent | H2O | 10 mL | O | H2O
solvent | H2O | 8.4 mL | O | H2O
product | 4-(4-Methylamino-3-amino-phenoxy)-pyridine-2-carbonitrile | 3.50 g, 76% | CNC1=C(C=C(OC2=CC(=NC=C2)C#N)C=C1)N | C13H12N4O
